US06201154B1
A solution of phenylacetylene (0.02 mol) and benzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) was subjected to the General Procedure, part A, to form Z-styryl benzylsulfide. The title compound was obtained in 65% yield by oxidation of the sulfide according to the General Procedure, part B. 1HNMR (CDC13) δ 4.50 (2H, s), 6.65 (1H, d, JH,H=11.2), 7.18-7.74 (10H aromatic+1H ethylenic).

reactant | phenylacetylene | 0.02 mol | C1(=CC=CC=C1)C#C | C8H6
reactant | benzyl mercaptan | 0.02 mol | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium | 0.02 g | [Na] | Na
product | Z-styryl benzylsulfide | C(=C/C1=CC=CC=C1)/SCC1=CC=CC=C1 | C15H14S
